US03978127
N-Benzyl-2-(α,α,β,β -tetrafluorophenethyl)benzylamine
A mixture of 3.9 g. (0.0138 mole) of 2-(α,α,β,β -tetrafluorophenethyl)benzylamine, 1.77 g. (0.014 mole) of benzyl chloride, 2.5 g. of anhydrous potassium carbonate, and 25 ml. of benzene is stirred and heated to refluxing for about 40 hours. After filtration, the solvent is evaporated under reduced pressure, leaving the product as the residual oil. Purification is effected by column chromatography on 250 g. of silica, the product being eluted with 1% methanol in chloroform. The fractions that show one spot of rf 0.7 on a fluorescent silica thin layer plate developed with 5% methanol in chloroform are combined. Evaporation of the solvent under reduced pressure leaves the product as the residual oil. The base is converted to the hydrochloride salt by treating an ethanolic solution with a slight excess of 8N hydrogen chloride in ethanol. Dilution with absolute ether precipitates the hydrochloride as white crystals, m.p. 188°-189.5°C. Recrystallization from acetone yields a purified sample, m.p. 188.5°-190°C.

reactant | 2-(α,α,β,β -tetrafluorophenethyl)benzylamine | 0.0138 mole | FC(C(C1=CC=CC=C1)(F)F)(F)C1=C(CN)C=CC=C1 | C15H13F4N
reactant | benzyl chloride | 0.014 mole | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen chloride | 8N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-Benzyl-2-(α,α,β,β -tetrafluorophenethyl)benzylamine | C(C1=CC=CC=C1)NCC1=C(C=CC=C1)C(C(C1=CC=CC=C1)(F)F)(F)F | C22H19F4N
